US06492401B1
Ethyl 1-(2-chloro-5-methylaminocarbonylphenyl)-5-cyclopropyl-1H-pyrazole-4-carboxylate
A solution of ethyl 1-(2-chloro-5-hydroxycarbonylphenyl)-5-cyclopropyl-1H-pyrazole-4-carboxylate (1.32 g, 3.73 mmol) in thionyl chloride (7.5 mL) was heated at reflux for 2 h under a nitrogen atmosphere. The resulting solution was concentrated in vacuo. A solution of the residue in anhydrous CH2Cl2 (10 mL) under a nitrogen atmosphere was treated with methylamine (2 M solution in THF, 9.33 mL, 18.7 mmol) followed by a catalytic amount of 4-dimethylaminopyridine. The resulting mixture was stirred for 6 h and partitioned between ethyl acetate and HCl (1 M aq). The organic layer was washed with brine, NaHCO3 (sat aq sol), and brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by flash 40M™ chromatography (75:25 ethyl acetate/hexanes) to afford 1.00 g (77% yield) of the title compound.

reactant | ethyl 1-(2-chloro-5-hydroxycarbonylphenyl)-5-cyclopropyl-1H-pyrazole-4-carboxylate | 3.73 mmol, 1.32 g | ClC1=C(C=C(C=C1)C(=O)O)N1N=CC(=C1C1CC1)C(=O)OCC | C16H15ClN2O4
reactant | methylamine | 18.7 mmol, 2 M, 9.33 mL | CN | CH5N
solvent | thionyl chloride | 7.5 mL | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | Ethyl 1-(2-chloro-5-methylaminocarbonylphenyl)-5-cyclopropyl-1H-pyrazole-4-carboxylate | 1.00 g, 77% yield | ClC1=C(C=C(C=C1)C(=O)NC)N1N=CC(=C1C1CC1)C(=O)OCC | C17H18ClN3O3
